US04325955
3-Diphenylmethyl-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol
A solution of 4.2 g. of 3-diphenylmethyl-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol hydrobromide in 50 ml. of 65% aqueous methanol is treated with 12 ml. of 1 N sodium hydroxide. The resulting solid is collected by filtration, washed with water and dried in vacuo at 40° C., giving the desired product, m.p. 123°--125° C.

reactant | 3-diphenylmethyl-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol hydrobromide | Br.C1(=CC=CC=C1)C(C1(CSC=2N1CCCCN2)O)C2=CC=CC=C2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-Diphenylmethyl-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol | C1(=CC=CC=C1)C(C1(CSC=2N1CCCCN2)O)C2=CC=CC=C2 | C20H22N2OS
